*********************************************************
* Spice file generated by gnetlist                      *
* spice-SDB version 3.30.2003 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
* Command stuff
.options gmin=1e-9 noacct
.options abstol=1e-11
* .ac dec 10 10MegHz 10 Ghz
* Remainder of file
R112 0 6 1Meg 
R111 0 8 10Meg 
R110 0 7 1Meg 
Rref2in 11 VU780out 25000 
Rref2fb VU2bias+ 11 33 
C201 0 9 1uF 
C202 10 0 1uF 
XU200 0 11 10 9 VU2bias+ OP177A 
R202 10 +5V 22 
R201 -5V 9 22 
Rref1in VU100in- VU780out 9130 
Rref1fb VU1bias+ VU100in- 33 
XU101 +5V 7 0 6 VU780out 8 AD780A 
* AD780A SPICE Macromodel 5/93, Rev. A
* AAG / PMI
*
* This version of the AD780 voltage reference model simulates the worst case
* parameters of the 'A' grade.  The worst case parameters used
* correspond to those in the data sheet.
*
* Copyright 1993 by Analog Devices, Inc.
*
* Refer to "README.DOC" file for License Statement.  Use of this model
* indicates your acceptance with the terms and provisions in the License Statement.
*
*  NODE NUMBERS
*              VIN
*               |  TEMP
*               |  |  GND
*               |  |  |  TRIM
*               |  |  |  |  VOUT
*               |  |  |  |  |  RANGE
*               |  |  |  |  |  |
.SUBCKT AD780A  2  3  4  5  6  8
*
* BANDGAP REFERENCE
*
I1 4 40 DC 1.21174E-3
R1 40 4 1E3 TC=7E-6
EN 10 40 42 0 1
G1 4 10 2 4 4.85668E-9
F1 4 10 POLY(2) VS1 VS2 (0,2.42834E-5,3.8E-5)
Q1 2 10 11 QT
I2 11 4 DC 12.84E-6
R2 11 3 1E3
I3 3 4 DC 0
*
* NOISE VOLTAGE GENERATOR
*
VN1 41 0 DC 2
DN1 41 42 DEN
DN2 42 43 DEN
VN2 0 43 DC 2
*
* INTERNAL OP AMP
*
G2 4 12 10 20 1.93522E-4
R3 12 4 2.5837E9
C1 12 4 6.8444E-11
D1 12 13 DX
V1 2 13 DC 1.2
*
* SECONDARY POLE @ 508 kHz
*
G3 4 14 12 4 1E-6
R4 14 4 1E6
C2 14 4 3.1831E-13
*
* OUTPUT STAGE
*
ISY 2 4 6.8282E-4
FSY 2 4 V1 -1
RSY 2 4 500E3
*
G4 4 15 14 4 25E-6
R5 15 4 40E3
Q2 4 15 16 QP
I4 2 16 DC 100E-6
Q3 4 16 18 QP
R6 18 23 15
R7 16 21 150E3
R8 2 17 34.6
Q4 17 16 19 QN
R9 21 20 6.46E3
R10 20 4 6.1E3
R11 20 5 53E3
R12 20 8 15.6E3
I5 5 4 DC 0
I6 8 4 DC 0
VS1 21 19 DC 0
VS2 23 21 DC 0
L1 21 6 1E-7
*
* OUTPUT CURRENT LIMIT
*
FSC 15 4 VSC 1
VSC 2 22 DC 0
QSC 22 2 17 QN
*
.MODEL QT NPN(level=1 IS=1.68E-16 BF=1E4)
.MODEL QN NPN(level=1 IS=1E-15 BF=1E3)
.MODEL QP PNP(level=1 IS=1E-15 BF=1E3)
.MODEL DX D(IS=1E-15)
.MODEL DEN D(IS=1E-12 RS=2.425E+05 AF=1 KF=6.969E-16)
.ENDS AD780A
C101 0 U100V- 1uF 
C102 U100V+ 0 1uF 
XU100 0 VU100in- U100V+ U100V- VU1bias+ OP177A 
* OP177A SPICE Macro-model                 12/90, Rev. B
*                                           JCB / PMI
*
* Revision History:
*   REV. B
*     Re-ordered subcircuit call out nodes to put the 
*     output node last.
*     Changed Ios from 1E-9 to 0.5E-9
*     Added F1 and F2 to fix short circuit current limit.
*
*
* This version of the OP-177 model simulates the worst case 
* parameters of the 'A' grade.  The worst case parameters
* used correspond to those in the data book.
*
*
* Copyright 1990 by Analog Devices, Inc.
*
* Refer to "README.DOC" file for License Statement.  Use of this model
* indicates your acceptance with the terms and provisions in the License Statement.
*
* Node assignments
*                non-inverting input
*                | inverting input
*                | | positive supply
*                | | |  negative supply
*                | | |  |  output
*                | | |  |  |
.SUBCKT OP177A   1 2 99 50 39
*
* INPUT STAGE & POLE AT 6 MHZ
*
R1   2   3    5E11
R2   1   3    5E11
R3   5  97    0.0606
R4   6  97    0.0606
CIN  1   2    4E-12
C2   5   6    218.9E-9
I1   4  51    1
IOS  1   2    0.5E-9
EOS  9  10    POLY(1)  30 33  10E-6  1
Q1   5  2  7  QX
Q2   6  9  8  QX
R5   7   4    0.009
R6   8   4    0.009
D1   2   1    DX
D2   1   2    DX
EN   10  1    12  0  1
GN1  0   2    15  0  1
GN2  0   1    18  0  1
*
EREF  98 0    33  0  1
EPLUS 97 0    99  0  1
ENEG  51 0    50  0  1 
*
* VOLTAGE NOISE SOURCE WITH FLICKER NOISE
*
DN1  11  12   DEN
DN2  12  13   DEN
VN1  11   0   DC 2
VN2  0   13   DC 2
*
* CURRENT NOISE SOURCE WITH FLICKER NOISE
*
DN3  14  15   DIN
DN4  15  16   DIN
VN3  14   0   DC 2
VN4  0   16   DC 2
*
* SECOND CURRENT NOISE SOURCE
*
DN5  17  18   DIN
DN6  18  19   DIN
VN5  17   0   DC 2
VN6  0   19   DC 2
*
* FIRST GAIN STAGE
*
R7   20 98     1
G1   98 20     5  6  119.8
D3   20 21     DX
D4   22 20     DX
E1   97 21     POLY(1) 97 33 -2.4 1
E2   22 51     POLY(1) 33 51 -2.4 1
*
* GAIN STAGE & DOMINANT POLE AT 0.127 HZ
*
R8   23 98     1.253E9
C3   23 98     1E-9
G2   98 23     20 33  33.3E-6
V1   97 24     1.8
V2   25 51     1.8
D5   23 24     DX
D6   25 23     DX
*
* NEGATIVE ZERO AT -4MHZ
*
R9   26 27     1
C4   26 27     -39.75E-9
R10  27 98     1E-6
E3   26 98     23 33  1E6
*
* COMMON-MODE GAIN NETWORK WITH ZERO AT 63 HZ
*
R13  30 31     1
L2   31 98     2.52E-3
G4   98 30     3  33  0.316E-6
D7   30 97     DX
D8   51 30     DX
*
* POLE AT 2 MHZ
*
R14  32 98     1
C5   32 98     79.5E-9
G5   98 32     27 33  1
*
* OUTPUT STAGE
*
R15  33 97     1
R16  33 51     1
GSY  99 50     POLY(1) 99 50 0.725E-3 0.0425E-3
F1   34  0     V3  1
F2   0  34     V4  1
R17  34 99     400
R18  34 50     400
L3   34 39     2E-7
G6   37 50     32 34  2.5E-3
G7   38 50     34 32  2.5E-3
G8   34 99     99 32  2.5E-3
G9   50 34     32 50  2.5E-3
V3   35 34     6.8
V4   34 36     4.4
D9   32 35     DX
D10  36 32     DX
D11  99 37     DX
D12  99 38     DX
D13  50 37     DY
D14  50 38     DY
*
* MODELS USED
*
.MODEL QX NPN(level=1 BF=333.3E6)
.MODEL DX   D(IS=1E-15)
.MODEL DY   D(IS=1E-15 BV=50)
.MODEL DEN  D(IS=1E-12, RS=14.61K, KF=2E-17, AF=1)
.MODEL DIN  D(IS=1E-12, RS=7.55E-6, KF=3E-15, AF=1)
.ENDS
R102 U100V+ +5V 22 
R101 -5V U100V- 22 
R98 0 VU2bias+ 1K 
R99 0 VU1bias+ 1K 
C95 VU2bias+ 0 100pF 
* C96 0 5 1uF 
* C97 4 0 1uF 
Cphotodiode 0 Vinput 0.9pF 
C99 0 VU1bias+ 100pF 
R25 Vout2 2 250 
C24 Vout1 VU1in- 1pF 
R24 VU1in- 1 150 
* C21 0 3 1uF 
Cc Vout2 VU2in- 1pF 
Rc Vout1 VU2in- 10 
RL 0 Vout2 50 
.TEMP 0 25 50 75 100
C12 2 0 1.5pF 
C11 0 V2- .01uF 
C10 V2+ 0 .01uF 
R13 +5V V2+ 5 
R12 V2- -5V 5 
R26 2 VU2in- 150 
R11 Vout2 VU2in- 180 
XU2 VU2bias+ VU2in- V2+ V2- Vout2 AD8009an 
XU1 VU1bias+ VU1in- V1+ V1- Vout1 AD8009an 
***** AD8009 SPICE model       Rev B SMR/ADI 8-21-97

* Copyright 1997 by Analog Devices, Inc.

* Refer to "README.DOC" file for License Statement.  Use of this model
* indicates your acceptance with the terms and provisions in the License Statement.

* rev B of this model corrects a problem in the output stage that would not
* correctly reflect the output current to the voltage supplies

* This model will give typical performance characteristics
* for the following parameters;

*     closed loop gain and phase vs bandwidth
*     output current and voltage limiting
*     offset voltage (is static, will not vary with vcm)
*     ibias (again, is static, will not vary with vcm)
*     slew rate and step response performance
*     (slew rate is based on 10-90% of step response)
*     current on output will be reflected to the supplies 
*     vnoise, referred to the input
*     inoise, referred to the input

*     distortion is not characterized

* Node assignments
*                non-inverting input
*                | inverting input
*                | | positive supply
*                | | |  negative supply
*                | | |  |  output
*                | | |  |  |
.SUBCKT AD8009an 1 2 99 50 28

* input stage *

q1 50 3 5 qp1
q2 99 5 4 qn1
q3 99 3 6 qn2
q4 50 6 4 qp2
i1 99 5 1.625e-3
i2 6 50 1.625e-3
cin1 1 98 2.6e-12
cin2 2 98 1e-12
v1 4 2 0

* input error sources *

eos 3 1 poly(1) 20 98 2e-3 1
fbn 2 98 poly(1) vnoise3 50e-6 1e-3
fbp 1 98 poly(1) vnoise3 50e-6 1e-3

* slew limiting stage *

fsl 98 16 v1 1
dsl1 98 16 d1
dsl2 16 98 d1
dsl3 16 17 d1
dsl4 17 16 d1
rsl  17 18 0.22
vsl  18 98 0

* gain stage *

f1 98 7 vsl 2
rgain 7 98 2.5e5
cgain 7 98 1.25e-12
dcl1 7 8 d1
dcl2 9 7 d1
vcl1 99 8 1.83
vcl2 9 50 1.83

gcm 98 7 poly(2) 98 0 30 0 0 1e-5 1e-5

* second pole *

epole 14 98 7 98 1
rpole 14 15 1
cpole 15 98 2e-10

* reference stage *

eref 98 0 poly(2) 99 0 50 0 0 0.5 0.5 

ecmref 30 0 poly(2) 1 0 2 0 0 0.5 0.5

* vnoise stage *

rnoise1 19 98 4.6e-3
vnoise1 19 98 0
vnoise2 21 98 0.53
dnoise1 21 19 dn

fnoise1 20 98 vnoise1 1
rnoise2 20 98 1

* inoise stage *

rnoise3 22 98 8.18e-6
vnoise3 22 98 0
vnoise4 24 98 0.575
dnoise2 24 22 dn

fnoise2 23 98 vnoise3 1
rnoise4 23 98 1

* buffer stage *

gbuf 98 13 15 98 1e-2
rbuf 98 13 1e2

* output current reflected to supplies *

fcurr 98 40 voc 1
vcur1 26 98 0
vcur2 98 27 0
dcur1 40 26 d1
dcur2 27 40 d1

* output stage *

vo1 99 90 0
vo2 91 50 0
fout1 0 99 poly(2) vo1 vcur1 -9.27e-3 1 -1
fout2 50 0 poly(2) vo2 vcur2 -9.27e-3 1 -1 
gout1 90 10 13 99 0.5
gout2 91 10 13 50 0.5
rout1 10 90 2
rout2 10 91 2
voc 10 28 0
rout3 28 98 1e6
dcl3 13 11 d1
dcl4 12 13 d1
vcl3 11 10 -0.445
vcl4 10 12 -0.445

.model qp1 pnp(level=1)
.model qp2 pnp(level=1)
.model qn1 npn(level=1)
.model qn2 npn(level=1)
.model d1  d()
.model dn  d(af=1 kf=1e-8)
.ends
R6 1 Vout1 250 
C3 1 0 1.5pF 
V3 VU1in- Vinput DC 0V 
* .INCLUDE /home/sdb/OpticalReceiver/Simulation.cmd
R5 -5V Vout1 1K 
I1 0 Vinput AC 1 PWL (0ns 0mA 1nS 0mA 1.01nS 1mA 10nS 1mA 10.01nS 0mA 20nS 0mA 20.01nS .1mA 30nS .1mA 30.01nS 0mA)
R4 V1- -5V 5 
C2 0 V1- .01uF 
V2 -5V 0 DC -5V
R2 VU1in- Vout1 180 
V1 +5V 0 DC 5V
C1 V1+ 0 .01uF 
R1 +5V V1+ 5 
* When run, this SPICE file should output a square waveform
* with a little overshoot
.tran 0.05ns 40ns
.plot Vout2
.END
